US06696437B1
2-(Pyrazin-2-yl)benzimidazole-4-carboxamide
A solution of 1.68 g (7.5 mmol) of 2,3-diaminobenzamide and 3.04 g (30 mmol) of triethylamine in 50 ml of dimethylformamide was stirred at room temperature for 1 hour. 0.93 g (7.5 mmol) of pyrazine-2-carboxylic acid and 1.01 g (7.5 mmol) of N-hydroxybenzotriazole (HOBt) were added. After stirring at room temp. for 15 minutes, the mixture was cooled to 0° C. 1.44 g (7.5 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide (EDC) were added, and the mixture was stirred at room temp. for 16 hours. The reaction mixture was then concentrated in vacuo. The residue was partitioned between methylene chloride and saturated sodium bicarbonate solution. The aqueous phase was extracted with methylene chloride. The combined organic phases were dried over magnesium sulfate. The residue obtained after concentration in vacuo was taken up in 50 ml of glacial acetic acid and refluxed for 30 minutes. The reaction mixture was concentrated in vacuo, and the residue was stirred in diethyl ether. The precipitate was removed by filtration and dried at 40° C. in vacuo. 1.11 g of brown crystals were obtained.

reactant | 2,3-diaminobenzamide | 7.5 mmol, 1.68 g | NC1=C(C(=O)N)C=CC=C1N | C7H9N3O
reactant | triethylamine | 30 mmol, 3.04 g | C(C)N(CC)CC | C6H15N
reactant | pyrazine-2-carboxylic acid | 7.5 mmol, 0.93 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | N-hydroxybenzotriazole | 7.5 mmol, 1.01 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide | 7.5 mmol, 1.44 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(Pyrazin-2-yl)benzimidazole-4-carboxamide | 1.11 g | N1=C(C=NC=C1)C=1NC2=C(N1)C=CC=C2C(=O)N | C12H9N5O
